US08420647B2
b) 4-Chloro-N2-cyclopropyl-5-fluoro-N2-methyl-benzene-1,2-diamine
To a solution of 400 mg (16.35 mmol) (5-chloro-4-fluoro-2-nitro-phenyl)-cyclopropyl-methyl-amine in 4 mL methanol was added 40 mg 10% palladium on activated charcoal (Fluka). The reaction mixture was stirred at room temperature under a hydrogen atmosphere of 1.7 bar for two hours. Ethyl acetate (10 mL) was added and the reaction mixture was filtered over Dicalite® speed plus (Acros) and concentrated under vacuum. The residue was purified by silica gel chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 60:40) to give 240 mg (68%) of the title compound as a brown liquid. MS (ESI): m/z=215.075 [M+H]+.

reactant | (5-chloro-4-fluoro-2-nitro-phenyl)-cyclopropyl-methyl-amine | 16.35 mmol, 400 mg | ClC=1C(=CC(=C(C1)N(C)C1CC1)[N+](=O)[O-])F | C10H10ClFN2O2
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium on activated charcoal | 40 mg | [Pd] | Pd
product | 4-Chloro-N2-cyclopropyl-5-fluoro-N2-methyl-benzene-1,2-diamine | 240 mg, 68% | ClC=1C=C(C(=CC1F)N)N(C)C1CC1 | C10H12ClFN2
